US07674802B2
2-[4-(2-Piperidin-1-yl-ethoxy)-phenyl]-isoindole-1,3-dione:
To a 50 mL vial which contained a solution of 2-(4-Hydroxy-phenyl)-isoindole-1,3-dione (239 mg, 1 mmol) and 1-(2-chloroethyl) piperidine hydrochloride (390 mg, 2 mmol) in DMF (15 mL) was added K2CO3 (600 mg, 4.5 mmol) at rt. The reaction mixture was heated to 85° C. and stirred at 85° C. for 72 h. After cooled to rt, the reaction mixture was poured into 50 mL ice-water mixture and then was extracted with EtOAc (3×30 mL). The combined organic layers were washed with water (3×30 mL), brine (30 mL) and dried over Na2SO4. After concentrated in vacuo, the residue was purified by a column chromatography on silica gel to yield the title product, (90 mg, 28%); LCMS; 97%, ESI+; Calcd: 350.4; Found m/z: 351.6 (M+1); 1HNMR (400 MHz, CDCl3) δ 1.40-1.68 (m, 6H), 2.52 (br, 4H), 2.80 (t, J=6.0 Hz, 2H), 4.15 (t, J=6.0 Hz, 2H), 7.02 (d, J=9.2 Hz, 2H), 7.32 (d, J=9.2 Hz, 2H), 7.77-7.79 (m, 2H), 7.84-7.96 (M, 2H).

reactant | 2-(4-Hydroxy-phenyl)-isoindole-1,3-dione | 1 mmol, 239 mg | OC1=CC=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | C14H9NO3
reactant | 1-(2-chloroethyl) piperidine hydrochloride | 2 mmol, 390 mg | Cl.ClCCN1CCCCC1
reactant | K2CO3 | 4.5 mmol, 600 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-Piperidin-1-yl-ethoxy)-phenyl]-isoindole-1,3-dione | 90 mg, 28% | N1(CCCCC1)CCOC1=CC=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | C21H22N2O3
